US06566528B1
Thionyl chloride (2.73 g, 0.023 moles) was added slowly to a well-stirred solution of 2-chloro-3-hydroxymethyl-5-methylpyridine (1.2 g, 0.0076 moles) in methylenechloride (20 ml) at 0° C. temperature over a period of 20 minutes. The reaction mass was further stirred for 6 hours at the same temperature. The solvent and excess thionylchloride was removed under reduced pressure and the mass was quenched with water (25 ml). The mass was extracted with methylene chloride (2×50 ml) and the layers separated. The organic layer was dried over sodium sulphate and the solvent removed under reduced pressure. The residue so obtained was subjected to chromatographic purification on silica gel to give 2-chloro-3-chloromethyl-5-methylpyridine as a solid in 92% yield.

reactant | Thionyl chloride | 0.023 moles, 2.73 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-3-hydroxymethyl-5-methylpyridine | 0.0076 moles, 1.2 g | ClC1=NC=C(C=C1CO)C | C7H8ClNO
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-3-chloromethyl-5-methylpyridine | 92% yield | ClC1=NC=C(C=C1CCl)C | C7H7Cl2N
